US06486156B1
A solution of methyl 2-(4-fluorophenyl)-4-(3-hydroxyprop-1-en-1-yl)benzoate (17 g), triphenylphosphine (22.8 g; 87 mmol) and tetrabromomethane (28.8 g; 87 mmol) in dichloromethane (200 ml) was stirred at 0° C. for 1 hour. After filtration of the insoluble material and evaporation to dryness, the residue was purified by flash chromatography eluting with dichloromethanelpetroleum ether (30/70) to give methyl 2-(4-fluorophenyl)-4-(3-bromoprop-1-en-1-yl)benzoate as a mixture of E and Z isomers.

reactant | methyl 2-(4-fluorophenyl)-4-(3-hydroxyprop-1-en-1-yl)benzoate | 17 g | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)C=CCO | C17H15FO3
reactant | triphenylphosphine | 87 mmol, 22.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | 87 mmol, 28.8 g | BrC(Br)(Br)Br | CBr4
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | methyl 2-(4-fluorophenyl)-4-(3-bromoprop-1-en-1-yl)benzoate | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)C=CCBr | C17H14BrFO2
